US07179912B2
5-(Morpholin-4-yl)-1,3-dihydro-benzimidazol-2-one
A solution of crude 4-morpholin-4-yl-benzene-1,2-diamine (0.75 g, 3.9 mmol) in tetrahydroflran (4 mL) was treated dropwise with a solution of carbonyldiimidazole (0.76 g, 4.7 mmol) in tetrahydrofuran (12 mL). The reaction mixture was stirred for 16 h at room temperature, and the solid product was collected by filtration and recrystallized from ethanol to afford the white solid product (0.47 g, 55%). See, J. Am. Chem., Soc., 118:4018 (1996).

reactant | 4-morpholin-4-yl-benzene-1,2-diamine | 3.9 mmol, 0.75 g | N1(CCOCC1)C=1C=C(C(=CC1)N)N | C10H15N3O
reactant | carbonyldiimidazole | 4.7 mmol, 0.76 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 5-(Morpholin-4-yl)-1,3-dihydro-benzimidazol-2-one | 0.47 g, 55% | N1(CCOCC1)C1=CC2=C(NC(N2)=O)C=C1 | C11H13N3O2
